US04302461
2,3-bis(4-Methoxyphenyl)-5-(1,1,2,2-tetrafluoroethylthio)thiophene
2,3-bis(4-Methoxyphenyl)-5-(2,4-dinitrophenylthio)thiophene (4.9 g, 10 mmoles), tetrahydrofuran (60 ml), methanol/water (7.5 ml, 2.5 ml) and potassium hydroxide (1.3 g, 20 mmoles) were charged into a stainless steel bomb. The bomb was briefly evacuated, charged with tetrafluoroethylene (5 g, 50 mmoles) and agitated for 12 hours at room temperature. The reaction mixture was filtered and the filtrate concentrated to near dryness. The residue was taken up in ethyl acetate and filtered. The filtrate was washed three times with 1 N NaOH, three times with 1 N HCl, once with brine, dried and concentrated in vacuo. Crystallization from ethanol/water gave the title compound (2.4 g), m.p. 84°-7° (D). Infrared and H-NMR spectra were consistent with the assigned structure. MS 428 (M+)

reactant | 2,3-bis(4-Methoxyphenyl)-5-(2,4-dinitrophenylthio)thiophene | 10 mmoles, 4.9 g | COC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)OC)SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C24H18N2O6S2
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 20 mmoles, 1.3 g | [OH-].[K+]
reactant | tetrafluoroethylene | 50 mmoles, 5 g | FC(=C(F)F)F | C2F4
solvent | methanol water | 7.5 ml | CO.O
product | 2,3-bis(4-Methoxyphenyl)-5-(1,1,2,2-tetrafluoroethylthio)thiophene | 2.4 g | COC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)OC)SC(C(F)F)(F)F | C20H16F4O2S2
